US06977262B2
4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine
The title compound was prepared from ethyl acetate, 2,1,3-benzoxadiazole-4-aldehyde and 3-aminopyrazole in the same manner as in Example 94.

reactant | 2,1,3-benzoxadiazole-4-aldehyde | N=1ON=C2C1C=CC=C2C=O | C7H4N2O2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C)=NNC1 | C14H10N6O
